US06878700B1
(2-Methylphenyl)[2-trifluoromethyl-4-(E-((3-(2-oxopyrrolidin-1-yl)propylamino)carbonyl)ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with 2-methylthiophenol, 2-chlorobenzaldehyde with 4-fluoro-3-trifluoromethyl benzaldehyde, and 6-amino-1-hexanol with 3-(2-oxopyrrolidin-1-yl)propylamine. 1H NMR (CDCl3, 300 MHz) δ 7.78 (s, 1H); 7.53 (d, J=15.6 Hz, 1H); 7.49 (d, J=7.2 Hz, 1H); 7.40-7.33 (m, 3H); 7.14 (m, 1H); 6.80 (d, J=8.2 Hz, 1H); 6.43 (d, J=15.6 Hz, 1H); 3.41 (m, 4H); 3.32 (q, J=6.1 Hz, 2H); 2.43 (t, J=6.6 Hz, 2H); 2.34 (s, 3H), 2.08 (m, 2H), 1.75 (m, 2H). MS (ESI) m/z 947 (2M+Na)+, 925 (2M+H)+, 485 (M+Na)+, 463 (M+H)+.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | 2-methylthiophenol | CC1=C(C=CC=C1)S | C7H8S
reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-fluoro-3-trifluoromethyl benzaldehyde | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 3-(2-oxopyrrolidin-1-yl)propylamine | O=C1N(CCC1)CCCN | C7H14N2O
product | (2-Methylphenyl)[2-trifluoromethyl-4-(E-((3-(2-oxopyrrolidin-1-yl)propylamino)carbonyl)ethenyl)phenyl]sulfide | CC1=C(C=CC=C1)SC1=C(C=C(C=C1)\C=C\C(=O)NCCCN1C(CCC1)=O)C(F)(F)F | C24H25F3N2O2S
